US09034850B2
Step D. {(R)-2-[5-(2-chloro-acetylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester
To a solution of {(R)-2-[5-amino-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester (50 mg, 0.11 mmol) in dichloromethane (2 mL) were added triethylamine (29 μl, 0.22 mmol) and chloro-acetyl chloride (9.3 μl, 0.12 mmol) in that order, followed by stirring at room temperature for 2 hrs. Again, chloro-acetyl chloride (5.0 μl, 0.06 mmol) was added to the solution which was then stirred at room temperature for 1 hr. The solution was washed with an aqueous saturated sodium bicarbonate solution to separate an organic layer which was then concentrated. The residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate, 2/1) and dried in a vacuum to afford 44 mg of the compound as a colorless oil (yield 76%).

reactant | {(R)-2-[5-amino-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 0.11 mmol, 50 mg | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)N)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C24H26F2N4O4
reactant | triethylamine | 0.22 mmol, 29 μl | C(C)N(CC)CC | C6H15N
reactant | chloro-acetyl chloride | 0.12 mmol, 9.3 μl | ClCC(=O)Cl | C2H2Cl2O
reactant | chloro-acetyl chloride | 0.06 mmol, 5.0 μl | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | {(R)-2-[5-(2-chloro-acetylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 44 mg, yield 76% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)NC(CCl)=O)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C26H27ClF2N4O5
